US07470699B2
Preparation of 4-[6-(6-Chloro-2-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A90)
A mixture of 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester (1.546 g, 4.93 mmol), palladium acetate (110 mg, 0.49 mmol), biphenyl-3-yl-di-tert-butyl-phosphane (18.5 mg, 0.062 mmol), sodium tert-butoxide (1.20 g, 12.5 mmol), and 6-chloro-2-methyl-pyridin-3-ylamine (709 mg, 4.97 mmol) in 15 mL dioxane was heated in microwave for 2 hour at 120° C. Solids were filtered off and mixture was purified to give Compound A90 as a tanned solid (640 mg, 31%). 1H NMR (CDCl3, 400 MHz) δ 1.11-1.12 (d, 6H), 1.52-1.62 (m, 2H), 1.81-1.89 (m, 2H), 1.98 (s, 3H), 2.23 (m, 3H), 3.21-3.30 (m, 2H), 3.59-3.70 (m, 3H), 5.14-5.17 (m, 1H), 6.83-6.91 (m, 1H), 7.14-7.16 (d, 1H), 7.55-7.57 (d, 1H), 7.87 (s, 1H). Exact mass calculated for C20H26ClN5O3 419.17, found 419.9 (MH+).

reactant | 4-(6-chloro-5-methyl-pyrimidin-4-yloxy)-piperidine-1-carboxylic acid isopropyl ester | 4.93 mmol, 1.546 g | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)Cl | C14H20ClN3O3
reactant | sodium tert-butoxide | 12.5 mmol, 1.20 g | CC(C)([O-])C.[Na+]
reactant | 6-chloro-2-methyl-pyridin-3-ylamine | 4.97 mmol, 709 mg | ClC1=CC=C(C(=N1)C)N | C6H7ClN2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.49 mmol, 110 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | biphenyl-3-yl-di-tert-butyl-phosphane | 0.062 mmol, 18.5 mg | C1(=CC(=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
product | 4-[6-(6-Chloro-2-methyl-pyridin-3-ylamino)-5-methyl-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 640 mg, 31% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C)NC=1C(=NC(=CC1)Cl)C | C20H26ClN5O3
